Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Rectal Perforation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ HTN, endometriosis s/p TAH-USO approx. ___ yrs ago transferred
from ___ for management of rectal perforation. She was 
seen
by her PCP ___ 2 months of fecal incontinence, suprapubic pain
and unintentional weight loss and was referred for a CT scan
___. CT showed a rectal perforation with possible vaginal
fistula. She was then told to go to ___ where she was 
found
to be hypotensive to 80's and tachycardic. She was fluid
resuscitated and then started on antibiotics. 

With interviewing the patient here she is unclear as to 
where/why
she is here. She reports she has been tolerating a diet, but has
been having diarrhea and stool incontinence but no rectal pain.
She denies fevers, chills, chest pain, palpitations, nausea,
vomiting, dysuria. She endorses several months of hand and foot
numbness, fecal and urinary incontinence, as well as generalized
weakness.
 
Past Medical History:
MHx: endometriosis, HTN, neuropathy

SHx: ___
Family History:
mother - bladder cancer
father - rectal cancer
 
Physical Exam:
GEN: NAD
HEENT: NCAT, EOMI, no scleral icterus
CV: RRR, radial pulses 2+ b/l
RESP: no respiratory distress, breathing comfortably on room air
GI: soft, minimally tender to deep palpation in the LLQ, no 
R/G/D
EXT: WWP, no peripheral edema

 
Pertinent Results:
___ 07:00AM BLOOD WBC-3.6* RBC-3.20* Hgb-11.1* Hct-32.9* 
MCV-103* MCH-34.7* MCHC-33.7 RDW-13.9 RDWSD-52.4* Plt ___
___ 06:56AM BLOOD Neuts-34.1 ___ Monos-11.5 Eos-1.7 
Baso-0.6 Im ___ AbsNeut-1.22* AbsLymp-1.84 AbsMono-0.41 
AbsEos-0.06 AbsBaso-0.02
___ 07:00AM BLOOD ___ PTT-34.9 ___
___ 07:00AM BLOOD Glucose-98 UreaN-<3* Creat-0.5 Na-140 
K-3.9 Cl-103 HCO3-23 AnGap-18
___ 07:00AM BLOOD Calcium-8.3* Phos-3.5 Mg-1.6
___ 06:48PM BLOOD Lactate-1.0

CT A/P ___:
-Diffuse thickening of the rectal wall, extensive surrounding 
stranding,
concerning for proctitis.  No fluid collection.  No extraluminal 
contrast.
-1.9 cm subcutaneous nodule in the right anterior pelvic wall. 
Correlation with clinical exam is recommended.
-Healing fracture of the coccyx.
 
Brief Hospital Course:
Following diagnosis of her contained rectal perforation in the 
___, the patient was admitted to the ___ service at the ___ for 
initial conservative management and close monitoring. Despite 
her impressive radiographic findings, the patient's clinical 
exam remained very stable. We started her on prophylactic 
antibiotics and her abdominal pain improved on serial exams. She 
showed definitive return of bowel function on HD#2 and he diet 
was advanced in a stepwise fashion thereafter.

Due to the location of the rectal perforation and unclear 
etiology of the proctitis as demonstrated on the CT, we 
consulted GI who suggested that her proctitis and perforation 
may be secondary to an distal manifestation of diverticulitis 
vs. another etiology of inflammatory bowel disease vs. an 
underlying malignancy. Ultimately, the patient will need 
definitive diagnosis with a Colonoscopy but will need time for 
her perforation to heal. In the interim, we will order an MRI 
Pelvis to further delineate the etiology of her perforation and 
have the patient follow up with Dr. ___ in Colorectal 
___. She will see Dr. ___ getting an MRI as an 
outpatient and discuss her future plan/options thereafter. She 
will ultimately require surgical clearance prior to her 
scheduled Colonoscopy in ___. 

Prior to her discharge, the patient was able to tolerate a 
regular diet, her pain was controlled with oral medications 
alone, she was ambulating, having bowel function and voiding. 
All of the above information was relayed directly to the patient 
and she was provided with the appropriate discharge medications. 
She has no further need to follow up with ACS in clinic unless 
she has further needs of our services. 
 
Medications on Admission:
gabapentin 300 BID

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*24 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*36 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectal Perforation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted to the Acute Care Surgery service at the ___ 
___ for management of your abdominal 
pain. You were found to have a contained perforation in your 
colon in close proximity to your anus. This was managed with 
antibiotics and observation alone and did not require any 
surgical intervention. 

Prior to your discharge, we spoke with the Gastroenterology and 
Colorectal Surgery teams, whom you will be seeing as an 
outpatient to further delineate the cause and treatment of this 
issue. To help the Colorectal Surgeons, you should receive an 
MRI of your pelvis in the next several weeks and follow up with 
Dr. ___, Colorectal Surgeon, at his office in ___ 
after your MRI is done. His office has been notified and they 
should call you with an appointment sometime this week. 

You have since tolerated a regular diet, are having bowel 
function, ambulating and your pain is controlled with oral 
medications. Please see the following instructions regarding 
your discharge. 

ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- You may start some light exercise when you feel comfortable.
- You may resume sexual activity unless your doctor has told you 
otherwise.

HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.

YOUR BOWELS:
- Constipation is a common side effect of abdominal inflammation 
from your perforation. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon. 

PAIN MANAGEMENT:
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
- large amount of bright red blood per rectum

MEDICATIONS:
- Take all the medicines you were on before your hospitalization
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

Good Luck
 
Followup Instructions:
___